US03931235
To a solution of 2.0 g. (0.0068 mole) of 3-(1-adamantylthio)-4-hydroxy-6-methyl-2-pyrone in 50 ml. of glacial acetic acid was added 0.78 g. (0.0070 mole) of 30% hydrogen peroxide and the solution allowed to stand at room temperature for 19 hours. The solution was then poured into ice water, and the resulting white solid precipitate was collected on a filter and recrystallized from ethanol to give the pure product 3-(1-adamantylsulfinyl)-4-hydroxy-6-methyl- 2-pyrone as 1.67 g. (80 percent) of colorless needles, m.p. 174.5°C.

reactant | 3-(1-adamantylthio)-4-hydroxy-6-methyl-2-pyrone | 0.0068 mole | C12(CC3CC(CC(C1)C3)C2)SC=2C(OC(=CC2O)C)=O | C16H20O3S
reactant | hydrogen peroxide | 0.0070 mole | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1-adamantylsulfinyl)-4-hydroxy-6-methyl- 2-pyrone | C12(CC3CC(CC(C1)C3)C2)S(=O)C=2C(OC(=CC2O)C)=O | C16H20O4S
